US05430145
Mix (S)-3-phenyllactic acid (11.17g, 67.2mmol) and sulfuric acid (0.3mL of a 10% solution in acetic acid). Add acetic anhydride (6.34mL, 67.2mmol) over 10 minutes. Warm to 90° C. with stirring for 45 minutes. Allow to cool, pour into diethyl ether and wash with water three times. Separate the organic phase, dry (MgSO4) and concentrate in vacuo to yield 13.16g (94%) (S)-3-phenyl-2-acetyloxypropionic acid as a white oil.

reactant | (S)-3-phenyllactic acid | 67.2mmol, 11.17g | C1(=CC=CC=C1)C[C@@H](C(=O)O)O | C9H10O3
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | acetic anhydride | 67.2mmol, 6.34mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | diethyl ether | C(C)OCC | C4H10O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | (S)-3-phenyl-2-acetyloxypropionic acid | 13.16g, 94% | C1(=CC=CC=C1)C[C@@H](C(=O)O)OC(C)=O | C11H12O4
